US08252833B2
Diethyl 1,4-bis(propyloxy)-2,3-naphthalenedicarboxylate
Diethyl 1,4-dihydroxy-2,3-naphthalenedicarboxylate* (11 g, 36.1 mmol) was dissolved in acetone (180 ml) and potassium carbonate (24.9 g, 180.5 mmol) added and stirred. 1-Bromopropane (13.1 ml, 144.4 mmol) was added and the reaction mixture was heated at reflux (60° C.) overnight under argon. The reaction was cooled to room temperature and the inorganic solid filtered off. The solvent was evaporated to give an orange brown oil. The residue was taken up in toluene and washed with 5% potassium hydroxide solution, brine and dried over magnesium sulphate. Solvent was removed under vacuum to give a brown oil which was purified by chromatography on silica gel eluting with, 10% ethyl acetate in hexane. The clean fractions were evaporated to give the title compound as yellow oil (11.45 g, 29.5 mmol).

reactant | Diethyl 1,4-dihydroxy-2,3-naphthalenedicarboxylate | OC1=C(C(=C(C2=CC=CC=C12)O)C(=O)OCC)C(=O)OCC | C16H16O6
reactant | potassium carbonate | 180.5 mmol, 24.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-Bromopropane | 144.4 mmol, 13.1 ml | BrCCC | C3H7Br
reactant | acetone | 180 ml | CC(=O)C | C3H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Diethyl 1,4-bis(propyloxy)-2,3-naphthalenedicarboxylate | 29.5 mmol, 11.45 g | C(CC)OC1=C(C(=C(C2=CC=CC=C12)OCCC)C(=O)OCC)C(=O)OCC | C22H28O6
